US07125901B2
Sodium 4-[2-(acetylamino)-1,3-thiazol-4-yl]phenylsulfinate (600 mg) was dissolved in DMF (2 ml) under N2 atmosphere. Then 2-bromoethanol (0.168 ml) was added to the solution at 0° C. The reaction mixture was stirred at 100° C. for 7 hours. After cooled to r.t., water and AcOEt were added to the mixture. The precipitate was filtered in vacuo to give N-(4-{4-[(2-hydroxyethyl)sulfonyl]phenyl}-1,3-thiazol-2-yl)acetamide (80.2 mg) as an off-white solid.

reactant | Sodium 4-[2-(acetylamino)-1,3-thiazol-4-yl]phenylsulfinate | 600 mg | C(C)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | 2-bromoethanol | 0.168 ml | BrCCO | C2H5BrO
reactant | water | O | H2O
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-(4-{4-[(2-hydroxyethyl)sulfonyl]phenyl}-1,3-thiazol-2-yl)acetamide | 80.2 mg | OCCS(=O)(=O)C1=CC=C(C=C1)C=1N=C(SC1)NC(C)=O | C13H14N2O4S2
